US03979513
Borontribromide (2 ml.) in methylene chloride (20 ml.) is added with stirring at 0°C. to a mixture of 1'-cyclopropylmethyl-4-methoxy,9,10-dihydroanthracene-9-spiro-4'-piperidine (1.8 g.) and sodium bicarbonate (5 g.). The reaction mixture is stirred at 0°C. for 2 hours and then at room temperature for 1 hour and diluted with chloroform, more sodium bicarbonate is added, the supension is washed thoroughly with water, dried (MgSO4) and evaporated. The residue is dissolved in boiling methanol, saturated ethereal hydrogen chloride is added, and the precipitated hydrochloride is collected and recrystallised twice from methanol-ether to give 1'-cyclopropylmethyl-4-hydroxy-9,10-dihydroanthracene-9-spiro-4'-piperidine hydrochloride m.p. 290°C. (decomposition).

reactant | 1'-cyclopropylmethyl-4-methoxy,9,10-dihydroanthracene-9-spiro-4'-piperidine | 1.8 g | C1(CC1)CN1CCC2(CC1)C1=CC=CC=C1CC=1C(=CC=CC12)OC | C23H27NO
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sodium bicarbonate | 5 g | C([O-])(O)=O.[Na+]
product | 1'-cyclopropylmethyl-4-hydroxy-9,10-dihydroanthracene-9-spiro-4'-piperidine hydrochloride | Cl.C1(CC1)CN1CCC2(CC1)C1=CC=CC=C1CC=1C(=CC=CC12)O | InChI=1S/C22H25NO.ClH/c24-21-7-3-6-20-18(21)14-17-4-1-2-5-19(17)22(20)10-12-23(13-11-22)15-16-8-9-16;/h1-7,16,24H,8-15H2;1H
